US04244888
59.0 g (0.55 moles) of propargyloxamine hydrochloride are added to a solution of 76 g (0.5 moles) of (±)-1,7,7-trimethyl-bicyclo[2,2,1]heptane-2-one in 225 ml of pyridine and 450 ml of dry ethanol. The reaction mixture is boiled for 3 hours and then it is evaporated in vacuo. The residue is diluted with water, and the aqueous mixture is extracted with dichloroethane. The dichloroethane solution is evaporated, and the residue is subjected to fractional distillation in vacuo. 76.0 g (74.0%) of (±)-2-(propargyloxyimino)-1,7,7-trimethyl-bicyclo[2,2,1]heptane are obtained as a light yellow oil; b.p.: 92° C./1.0 mm Hg, nD20 =1.4956.

reactant | propargyloxamine hydrochloride | 0.55 moles, 59.0 g | Cl.C(C#C)C1OC=CC=C1
reactant | (±)-1,7,7-trimethyl-bicyclo[2,2,1]heptane-2-one | 0.5 moles, 76 g | CC12C(CC(CC1)C2(C)C)=O | C10H16O
reactant | pyridine | 225 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | (±)-2-(propargyloxyimino)-1,7,7-trimethyl-bicyclo[2,2,1]heptane | 76.0 g, 74.0% | C(C#C)ON=C1C2(CCC(C1)C2(C)C)C | C13H19NO
